US05470882
c) 2-(2-Amino-4-trifluoromethylphenoxy)-5-(1,1-dimethylpropyl)benzenesulfonic acid
2-(2-Nitro-4-trifluoromethylphenoxy)-5-(1,1-dimethylpropyl)benzenesulfonic acid, ammonium salt (620 mg) was mixed in ethyl acetate (50 ml) and palladium on carbon (202 mg) was added under argon. The mixture was hydrogenated in a Parr bottle at 55 psi for two hours. The sample was filtered to remove the catalyst, mixed with methanol and degassed for several hours to yield the title compound 1H NMR (250 MHz, CD3OD) ∂7.95 (d, 1H), 7.30 (dd, 1H), 7.05 (dd, 2H), 6.85 (dd, 1H), 6.75 (d, 1H), 1.65 (q, 3H), 1.25 (s, 6H), 0.65 (t, 2H).

reactant | 2-(2-Nitro-4-trifluoromethylphenoxy)-5-(1,1-dimethylpropyl)benzenesulfonic acid, ammonium salt | 620 mg | [NH4+].[N+](=O)([O-])C1=C(OC2=C(C=C(C=C2)C(CC)(C)C)S(=O)(=O)[O-])C=CC(=C1)C(F)(F)F
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 202 mg | [Pd] | Pd
product | 2-(2-Amino-4-trifluoromethylphenoxy)-5-(1,1-dimethylpropyl)benzenesulfonic acid | NC1=C(OC2=C(C=C(C=C2)C(CC)(C)C)S(=O)(=O)O)C=CC(=C1)C(F)(F)F | C18H20F3NO4S
